US04831148
64.6 g (1.11 mol) of potassium fluoride and 11.25 g (0.074 mol) of caesium fluoride are suspended in 240 ml of sulfolane and the suspension is heated to 140° C. 50 mol of sulfolane are distilled off by decreasing the pressure and then 61.4 g (0.37 mol) of 2,5-dichloro-3-fluoropyridine and 1.45 g (0.0055 mol) of 18-crown-6 in 20 ml of sulfolane are added to the suspension. This reaction mixture is stirred for 35 hours at 140° C. and then taken up in ice water. The product is isolated from the aqueous mixture either by extraction with ether or by steam distillation, affording 48.7 g (88% of theory) of 5-chloro-2,3-difluoropyridine, b.p. 65°-66° C. at 133 mbar.

reactant | potassium fluoride | 1.11 mol, 64.6 g | [F-].[K+]
reactant | caesium fluoride | 0.074 mol, 11.25 g | [F-].[Cs+]
reactant | 2,5-dichloro-3-fluoropyridine | 0.37 mol, 61.4 g | ClC1=NC=C(C=C1F)Cl | C5H2Cl2FN
reactant | ether | CCOCC | C4H10O
solvent | sulfolane | 240 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | sulfolane | 20 ml | S1(=O)(=O)CCCC1 | C4H8O2S
catalyst | 18-crown-6 | 0.0055 mol, 1.45 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | sulfolane | 50 mol | S1(=O)(=O)CCCC1 | C4H8O2S
product | 5-chloro-2,3-difluoropyridine | 48.7 g, 88% | ClC=1C=C(C(=NC1)F)F | C5H2ClF2N
